US05506254
N-Methyl-E-2-methoxyimino-2-[(2-methylphenoxymethyl)phenyl]acetamide
250 g of methyl E-2-methoxyimino-2-[(2-methylphenoxymethyl)phenyl]acetate are suspended in 1 l of 40% strength aqueous methylamine solution and heated at 40° C. for 4 h. After cooling to room temperature (20° C.), the solid is filtered off with suction, washed several times with water and dried at 50° C. 229.8 g of the title compound are obtained as colorless crystals.

reactant | methyl E-2-methoxyimino-2-[(2-methylphenoxymethyl)phenyl]acetate | 250 g | CO\N=C(\C(=O)OC)/C1=C(C=CC=C1)COC1=C(C=CC=C1)C | C18H19NO4
reactant | methylamine | CN | CH5N
product | N-Methyl-E-2-methoxyimino-2-[(2-methylphenoxymethyl)phenyl]acetamide | 229.8 g | CNC(/C(/C1=C(C=CC=C1)COC1=C(C=CC=C1)C)=N/OC)=O | C18H20N2O3
